US05089654
To a solution of 45.1 g of 4-t-butyl-2'-hydroxy-4'-(3-methyl-2-butenyloxy)chalcone in 500 ml of acetone was added 10.6 g of potassium hydroxide, and the mixture was stirred for 5 minutes. Then, 21.5 g of ethyl bromoacetate was added, and the mixture was stirred for 45 minutes. After neutralization with dilute hydrochloric acid, the precipitated solid was collected by filtration, washed with water, dried and recrystallized from ethanol to give 47.6 g of 4-t-butyl-2'-ethoxycarbonylmethoxy-4'-(3-methyl-2-butenyloxy)chalcone as a pale yellow powder.

reactant | 4-t-butyl-2'-hydroxy-4'-(3-methyl-2-butenyloxy)chalcone | 45.1 g | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)C1=C(C=C(C=C1)OCC=C(C)C)O | C24H28O3
reactant | potassium hydroxide | 10.6 g | [OH-].[K+]
reactant | ethyl bromoacetate | 21.5 g | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-t-butyl-2'-ethoxycarbonylmethoxy-4'-(3-methyl-2-butenyloxy)chalcone | 47.6 g | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)C1=C(C=C(C=C1)OCC=C(C)C)OCC(=O)OCC | C28H34O5
